US08034895B2
Synthesis of diethyl 2,5-bis((5-(thiophen-2-yl)thiophen-2-yl)methyleneamino)thiophene-3,4-dicarboxylate (5)
5-(Thiophen-2-yl)thiophene-2-carbaldehyde (75 mg) was added to diethyl 2,5-diaminothiophene-3,4-dicarboxylate (49 mg) and the solution was refluxed in isopropanol for four hours in the presence of a catalytic amount of TFA. The title compound was isolated as a red powder (58 mg, 50%) following column chromatography. M.p.: 130°-132° C. 1H-NMR (300 MHz, [D] acetone): δ=8.69 (s, 2H), 7.76 (d, 2H, 3J=4.1 Hz), 7.66 (d, 2H, 3J=6.1 Hz), 7.53 (d, 2H, 3J=3.7 Hz), 7.46 (d, 2H, 3J=4.0 Hz), 7.16 (t, 2H, 3J=3.6 Hz), 4.26 (q, 4H, 3J=6). 9 Hz), 1.30 (t, 6H, 3J=7.3 Hz). 13C-NMR (60 MHz, [D] acetone): δ=173.0, 163.0, 152.8, 140.9, 136.4, 131.6, 129.2, 129.0, 127.3, 126.2, 125.2, 123.9, 66.3, 13.8. EI-MS: m/z 610.9 ([M]+, 100%).

reactant | 5-(Thiophen-2-yl)thiophene-2-carbaldehyde | 75 mg | S1C(=CC=C1)C1=CC=C(S1)C=O | C9H6OS2
reactant | diethyl 2,5-diaminothiophene-3,4-dicarboxylate | 49 mg | NC=1SC(=C(C1C(=O)OCC)C(=O)OCC)N | C10H14N2O4S
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | isopropanol | C(C)(C)O | C3H8O
product | diethyl 2,5-bis((5-(thiophen-2-yl)thiophen-2-yl)methyleneamino)thiophene-3,4-dicarboxylate | S1C(=CC=C1)C1=CC=C(S1)C=NC=1SC(=C(C1C(=O)OCC)C(=O)OCC)N=CC=1SC(=CC1)C=1SC=CC1 | C28H22N2O4S5
